* source JEDL_PROJECT_1
V_V2         N00351 N00357  
+SIN 0 28 120Hz 0 0 0
D_D1         0 N00351 Dbreak 
D_D2         0 N00357 Dbreak 
D_D3         N00351 N00579 Dbreak 
D_D4         N00357 N00579 Dbreak 
C_Filtering_Capacitor         0 N00579  1000u  TC=0,0 
X_U1         N03577 N12796 N03891 N19929 N20337 0 0 N14816 N00579 N00579 N03521
+  LM723
C_Frequency_Compensation         N03891 N03521  1u  TC=0,0 
R_Current_Sense_Resistor         N12796 N03577  1 TC=0,0 
R_RF_Pot         N03891 N03971  8.87 TC=0,0 
R_RI         0 N03891  3.3k TC=0,0 
R_R1         N20337 N19754  2400 TC=0,0 
I_I1         N03971 0 DC 250mAdc  
V_V3         N19929 N19754  AC 0
+SIN 0 5 1 0 0 0
Q_Q1         N00579 N14816 N03971 QbreakN 
