* source JEDL_PROJECT_1
V_V2         N00351 N00357  
+SIN 0 28 120Hz 0 0 0
D_D1         0 N00351 Dbreak 
D_D2         0 N00357 Dbreak 
D_D3         N00351 N00579 Dbreak 
D_D4         N00357 N00579 Dbreak 
C_Filtering_Capacitor         0 N00579  1000u  TC=0,0 
X_U1         N03579 N03971 N04033 N29509 N29598 0 N14816 N14816 N00579 N00579
+  N03521 LM723
C_Frequency_Compensation         N04033 N03521  1u  TC=0,0 
R_RI         0 N04033  3.3k TC=0,0 
R_R1         N29509 N29495  1925 TC=0,0 
Q_Q1         N00579 N14816 N03579 QbreakN 
V_ARDUINO         N29495 0 3.33333
R_RLOAD         0 N03971  4 TC=0,0 
R_R3         0 N29598  1k TC=0,0 
R_R5         N04033 N03971  4.62k TC=0,0 
R_RSC         N03579 N03971  0.853 TC=0,0 
V_V3         N33650 0  
+PULSE 0 5 0 1n 1n 1.3333333m 2m
C_C1         0 N33652  68u  TC=0,0 
R_R6         N33650 N33652  1k TC=0,0 
